Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypotension, atrial fibrillation 
 
Major Surgical or Invasive Procedure:
EGD
Large volume paracentesis (___)

 
History of Present Illness:
Mr. ___ is a ___ year old man with Childs C alcohol cirrhosis 
(complicated by ascites, portal gastropathy and hepatic 
encephalopathy) and spinal stenosis (on morphine and oxycodone 
at rehab), with recent admission for fall with scapular 
fracture, who is presenting today with new onset hemodynamically 
unstable Afib with RVR, acute encephalopathy, and leukocytosis 
following large volume paracentesis.  
 The patient presented today from his outpatient rehabilitation 
facility for a routine paracentesis. At his nursing facility, he 
was given a dose of morphine prior to the procedure. He had 5.7L 
of yellow fluid removed from abdomen, which was discarded and 
was given back 37.5g albumin after the paracentesis. After the 
procedure, the patient became mildly dyspneic and somnolent. He 
was found to be tachycardic in afib with RVR at a rate of 140, 
and his blood pressure dropped into the 70's systolic, so he was 
sent to the ED.  
 In the ED initial vitals: ___ BP 98/63 RR14 O2 sat 97%  
 - Exam notable for: altered, A&Ox1, no abdominal ttp, brusing 
to rlq  
 - ECG notable for 12:30: Atrial fibrillation with rates in 
130's. After cardioversion 3 ___: NSR in 100's.  
 - Imaging notable for: CXR No acute abnormality. Reticular 
opacities bilaterally consistent with chronic interstitial lung 
disease.  
 - Labs notable for: UA not infected, NO DIAGNOSTIC PARACENTESIS 
WAS DONE, lactate 3.0, troponin <0.01, sodium 132, K 5.3, bicarb 
20, AG 14, BUN 75 with creatinine 1.7 (baseline 1.2-1.3), Tbili 
2.9, AST 75, ALT 39, AP 240, Albumin 3.0, WBC 11.2, H/H 
9.8/30.5, plt 85, INR 1.4.  
 - Patient was given: 2L NS, 2g ceftriaxone, Fentanyl 100 mcg 
for cardioversion, albumin 5% 500 cc.  
 - Underwent DCCV (Procedural sedation performed with 100mcg 
fentanyl. 2 shocks were delivered, second attempt successful, in 
NSR at rate of 100-105)  
 - Vitals prior to transfer: 96.9 89 110/66 12 98% 2L NC  
 On the floor, the patient reports that he is feeling much 
better than he was previously. He denies any preceding fevers, 
chills, nausea, vomiting, abdominal pain, shortness of breath, 
chest pain, palpitations.  

 
Past Medical History:
-ALCOHOLIC CIRRHOSIS, complicated by
 #PORTAL GASTROPATHY
 #HEPATIC ENCEPHALOPATHY
 #ASCITES REQUIRING PARACENTESIS
 #PANCYTOPENIA
-GASTROESOPHAGEAL REFLUX DISEASE COMPLICATED BY ___
-DIABETES TYPE II
-HYPERLIPIDEMIA
-HYPERTENSION
-DEPRESSION with PRIOR SUICIDE ATTEMPTS
 
Social History:
___
Family History:
Mother ___ ___ ALZHEIMER'S DISEASE; COLON CANCER  
Father ___ ___ CORONARY ARTERY DISEASE  
Sister MYELODYSPLASTIC SYNDROME  
Brother MOUTH CANCER   
Sister EAR PROBLEMS  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
 VITAL SIGNS - 97.6 117/66 92 18 96% RA  
 GENERAL - NAD, sitting comfortably in chair  
 HEENT - atraumatic, sclera anicteric, dry mucous membranes, 
PERRL  
 CARDIAC - normal S1 and S2, regular rhythm and rate, no m/r/g  
 PULMONARY - Left lung with rales, no rhonchi or wheezing  
 ABDOMEN - distended, tenderness near site of recent para, no 
other tenderness to palpation  
 GENITOURINARY - no foley  
 EXTREMITIES - 1+ pitting edema in bilateral LEs, 2+ DPs 
bilaterally  
 SKIN - no spider angiomas, no jaundice  
 NEUROLOGIC - + asterixis  
 PSYCHIATRIC - normal mood and affect  

DISCHARGE PHYSICAL EXAM:
VS: 98.0 109/64 84 18 96% RA 
Weight: 93.44 (___) -> 96.4kg
I/Os: ___  
GENERAL: NAD, (+) temporal wasting  
HEENT: atraumatic, sclera anicteric, PERRL, OP clear without 
thrush or lesions  
CARDIAC: normal S1 and S2, regular rhythm and rate, no m/r/g  
PULMONARY: Bibasilar crackles, no wheeze
ABDOMEN: soft, moderately distended, non-tender to palpation  
GU: no foley  
Back: well healed surgical scar in lumbar area, some lumbar 
paraspinal tenderness
EXTREMITIES: WWP, no ___ edema, 2+ DPs bilaterally  
SKIN: no spider angiomas, no jaundice  
NEUROLOGIC: no asterixis, some slowed speech however otherwise 
answering questions appropriately
PSYCH: normal mood and affect 
 
Pertinent Results:
ADMISSION LABS:
___ 11:56PM   LACTATE-1.5 K+-4.3
___ 03:12PM URINE  HOURS-RANDOM
___ 03:12PM URINE  UHOLD-HOLD
___ 03:12PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:12PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-6.0 LEUK-SM 

___ 03:12PM URINE  RBC-8* WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 03:12PM URINE  HYALINE-3*
___ 03:12PM URINE  MUCOUS-RARE
___ 01:03PM   LACTATE-3.0*
___ 12:55PM   GLUCOSE-173* UREA N-75* CREAT-1.7* 
SODIUM-132* POTASSIUM-5.3* CHLORIDE-98 TOTAL CO2-20* ANION 
GAP-19
___ 12:55PM   estGFR-Using this
___ 12:55PM   ALT(SGPT)-39 AST(SGOT)-75* ALK PHOS-240* TOT 
BILI-2.9*
___ 12:55PM   cTropnT-<0.01
___ 12:55PM   ALBUMIN-3.0*
___ 12:55PM   WBC-11.2*# RBC-3.82* HGB-9.8* HCT-30.5* 
MCV-80* MCH-25.7* MCHC-32.1 RDW-21.2* RDWSD-59.7*
___ 12:55PM   NEUTS-85.6* LYMPHS-3.2* MONOS-9.2 EOS-0.8* 
BASOS-0.2 IM ___ AbsNeut-9.60*# AbsLymp-0.36* AbsMono-1.03* 
AbsEos-0.09 AbsBaso-0.02
___ 12:55PM   PLT COUNT-85*
___ 12:55PM   ___ PTT-30.4 ___

PERTINENT:
___ 04:22PM ASCITES WBC-161* ___ Polys-10* 
Lymphs-33* Monos-0 Plasma-1* Mesothe-3* Macroph-53*
___ 04:22PM ASCITES TotPro-2.1 Albumin-1.4

IMAGING:
-Chest x-ray ___: No acute abnormality. Reticular opacities 
bilaterally consistent with chronic interstitial lung disease.  
-Electrocardiogram: afib with rate 130s. LAD. no evidence of 
acute infarct or ischemia.  
-Last EGD ___: Erythema, friability and congestion in the 
antrum compatible with portal gastropathy. Otherwise normal EGD 
to third part of the duodenum  
-Last abdominal imaging ___:  
1. Technically successful ultrasound guided therapeutic 
paracentesis.  
2. 5.7 L of fluid were removed.  
- Abdomen/pelvis Doppler U/S:   
1. Cirrhotic liver, without evidence of focal lesion. 
2. Patent hepatic vasculature with appropriate flow. 
3. Stable splenomegaly and moderate ascites. 
-TTE (___):
IMPRESSION: 
 1) Mild to moderate symmetric left ventricular hypertrophy with 
normal biventricular regional/global systolic function.
 2) Grade I diastolic dysfunction with normal LVEDP (E/e' 
sufficiently low that even in setting of atrial fibrillation LV 
filling can be interpreted as normal). LA volume is normal. 
Compared with the prior study (images reviewed) of ___, 
the findings are similar. The patient now is in atrial 
fibrillation.
-Paracentesis (___):
IMPRESSION:   
1. Technically successful ultrasound guided therapeutic 
paracentesis. 
2. 3 L of fluid were removed. 
-EGD (___):
Erythema, congestion and mosaic appearance in the stomach 
compatible with moderate portal hypertensive gastropathy
Nodules in the antrum
Esophagitis
Varices at the lower third of the esophagus
Normal mucosa in the duodenum
Otherwise normal EGD to third part of the duodenum 
-Video swallow (___):
IMPRESSION: One time trace penetration with thin consistency 
barium.  Otherwise, no gross penetration or aspiration with 
barium of other consistencies. 

MICRO:
___ 4:22 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

   Fluid Culture in Bottles (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 4:22 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary): 
__________________________________________________________
___ 1:05 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:53 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-4.7 RBC-3.03* Hgb-7.9* Hct-24.9* 
MCV-82 MCH-26.1 MCHC-31.7* RDW-22.5* RDWSD-66.3* Plt Ct-52*
___ 06:00AM BLOOD ___ PTT-42.2* ___
___ 06:00AM BLOOD Glucose-101* UreaN-43* Creat-1.1 Na-132* 
K-4.2 Cl-96 HCO3-24 AnGap-16
___ 06:00AM BLOOD ALT-20 AST-31 AlkPhos-160* TotBili-2.3*
___ 06:00AM BLOOD Calcium-9.5 Phos-3.0 Mg-2.___ M PMHx Childs C alcohol cirrhosis (complicated by ascites, 
portal gastropathy and hepatic encephalopathy), spinal stenosis 
on chronic pain meds, and recent admission for fall c/b scapular 
fracture and persistent ascites, who presented from outpatient 
___ with hemodynamically unstable Afib with RVR s/p DCCV x 2, 
acute encephalopathy, and sepsis thought to be ___ SBP with his 
hospital course complicated by ___ and dysphagia. 

# Afib w/ RVR: while at his outpatient ___ appointment, patient 
was noted to be hypotensive with ECG concerning for atrial 
fibrillation with RVR. He underwent ___ x2 without return to 
sinus rhythm. He was evaluated by Cardiology, with etiology of 
afib thought to be ___ hypovolemia following LVP vs SBP vs 
cardiac etiology. Cardiac work-up, including ECG, trops, and TTE 
were negative for ischemic changes. He was initially rate 
controlled with metoprolol, transitioned to diltiazem in the 
setting ___ with stabilization of HRs <110. CHADVASC2 of ___ 
for prior diagnosis of HTN and DMII, however, given his high 
risk for anticoagulation he was started on po aspirin. He will 
need outpatient follow up with Cardiology. 

# Hepatic Encephalopathy: Patient lethargic with asterixis on 
admission, with etiology thought to be infection vs medications. 
He received lactulose/rifaximin and his mental status improved 
to baseline prior to discharge.

# Presumed SBP, ascites: patient with large volume ascites, 
receiving outpatient ___ paracenteses. On admission, in 
the setting of hypotension and afib, there was concern for SBP 
as trigger. Unfortunately, no fluid studies were sent on initial 
paracentesis. He received empiric treatment with IV CTX/albumin 
with improvement in his hypotension. He was discharged on 
ciprofloxacin 500mg daily for SBP secondary ppx. Diuretics were 
unable to be restarted ___ ___, hyponatremia. He received x2 
LVPs in hospital, with 5L removed on ___ negative for SBP. He 
will need ongoing ascites management with LVPs as an outpatient. 


# Acute kidney injury: Patient presenting with BUN 75/Cr 1.7, 
from baseline about ___. Following treatment of SBP with 
abx/albumin, his Cr downtrended. 
-Cr on discharge: 1.1 

# Decompensated EtOH cirrhosis: Childs C, MELD 23 on admission. 
His cirrhosis has been complicated by recurrent ascites, hepatic 
encephalopathy, and portal gastropathy. Acute decompensation was 
thought to be ___ potentially related to hypovolemia vs. 
infection. His MELD labs were trended daily and returned to 
baseline. He was continued on lactulose/rifaximin. He was 
initiated on ciprofloxacin for SBP ppx. Diuretics were not 
restarted on discharge. 

# Question of dysphagia: in the hospital, patient endorsed 
dysphagia to solids and liquids. He was evaluated at bedside by 
SLP, concerning for aspiration with all liquids. EGD was notable 
for moderate portal hypertensive gastropathy, few nodules in 
antrum, and 1 cord of grade I varices were seen in the lower 
third of the esophagus without obstruction/infection/stricture. 
Videoswallow was negative for aspiration. He was discharged on 
diet of ground solid/thin liquids in the setting of losing his 
dentures. 

# Spinal stenosis/scapular fracture: patient is on chronic 
narcotics for pain associated with spinal stenosis, and had been 
receiving increased doses of narcotics following recent 
admission for fall found to have a scapular fracture. In the 
setting of encephalopathy all pain medications were initially 
held. As his mental status improved, he was transitioned to a 
regimen of OxyCODONE SR (OxyconTIN) 10mgPO Q12H with TraMADol 50 
mg PO Q6H:PRN Pain - Moderate alternating with OxyCODONE 
(Immediate Release) 5 mg PO/NG Q6H:PRN Pain - Severe for 
additional control. He will ongoing ___.

# Type II Diabetes: he was continued on home Glargine 26 u QHS, 
Humalog SS 

TRANSITIONAL ISSUES: 
[] Patient lost dentures on transfer to hospital, likely 
contributing to difficulty with swallowing. Please assist with 
getting new dentures
[] Discharged on ciprofloxacin for SBP ppx
[] NO diuretics on discharge
[] Discharge weight: 96.4kg
[] Discharge diet: ground solids, thin liquids
[] Last large volume paracentesis on ___ with 5L removed, will 
likely need next LVP with ___ early-mid 
[] TI from previous hospitalization:
-Further workup for hematuria- Consider urology consultation 
-ON MRI SHOULDER, the scapula appeared concerning for possible 
underlying bony lesion, but orthopedics team was not concerned. 
Consider following this up with a CT scan of the 
shoulder.-Contact: Sister, ___ 
-Code status: Full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. walker    miscellaneous DAILY 
2. ARIPiprazole 30 mg PO DAILY 
3. DULoxetine 120 mg PO DAILY 
4. Gabapentin 300 mg PO TID 
5. Lactulose 15 mL PO TID 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

9. Rifaximin 550 mg PO BID 
10. TraZODone 100 mg PO QHS:PRN insomnia 
11. Docusate Sodium 100 mg PO BID 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Morphine SR (MS ___ 15 mg PO QHS:PRN Pain 
15. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
16. Levofloxacin 250 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H  
2.  Aspirin 81 mg PO DAILY  
3.  Ciprofloxacin HCl 500 mg PO Q24H  
4.  Diltiazem 15 mg PO Q8H  
5.  Lidocaine 5% Patch 1 PTCH TD QPM  
6.  OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone 10 mg 1 tablet(s) by mouth q12 Disp #*6 Tablet 
Refills:*0 
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
8.  Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
9.  Lactulose 30 mL PO TID  
10.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 

RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
11.  ARIPiprazole 30 mg PO DAILY  
12.  Docusate Sodium 100 mg PO BID  
13.  DULoxetine 120 mg PO DAILY  
14.  Multivitamins 1 TAB PO DAILY  
15.  Omeprazole 20 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Rifaximin 550 mg PO BID  
18.  Senna 8.6 mg PO BID:PRN constipation  
19.  walker    miscellaneous DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
-Atrial fibrillation
-Acute kidney injury
-Hepatic encephalopathy
-Spontaneous bacterial peritonitis
-Dysphagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (___ 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with an abnormal rhythm of your heart 
called atrial fibrillation. You were evaluated by a Cardiologist 
and started on medications to control your heart rates. Also 
while here, you treated you for an infection of the fluid in 
your abdomen. You received IV antibiotics for this. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Please take diltiazem 15mg three times daily
-Please take aspirin 81mg daily
-Please take ciprofloxacin 500mg daily
-Please check your weight every morning, before you eat or take 
your medications. ___ your MD if your weight changes by more 
than 3 pounds
-Please continue to have a diet of ground solid foods until you 
get new dentures
-Continue working with physical therapy to improve your strength 
and help your shoulder. Please take pain medications only as you 
need them.

Wishing you the best,

Your ___ Team
 
Followup Instructions:
___